US06380218B1
2-(Benzo[1,3]dioxol-5-yloxy)-nicotinic acid ethyl ester
A solution 2-Chloro-nicotinic acid ethyl ester (5.0 grams, 27.0 mmole), cesium carbonate (2.96 grams, 67.5 mmole) and Benzo[1,3]dioxol-5-ol (4.19 grams, 29.7 mmole) in dimethylformamide (80 ml) was heated to 65° C. for 10 hours. The mixture was diluted with water and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried over MgSO4, filtered, and concentrated to a solid (7.0 g). MW 287.275.

reactant | 2-Chloro-nicotinic acid ethyl ester | 27.0 mmole, 5.0 grams | C(C)OC(C1=C(N=CC=C1)Cl)=O | C8H8ClNO2
reactant | cesium carbonate | 67.5 mmole, 2.96 grams | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Benzo[1,3]dioxol-5-ol | 29.7 mmole, 4.19 grams | O1COC2=C1C=CC(=C2)O | C7H6O3
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(Benzo[1,3]dioxol-5-yloxy)-nicotinic acid ethyl ester | C(C)OC(C1=C(N=CC=C1)OC1=CC2=C(OCO2)C=C1)=O | C15H13NO5
